US07700633B2
A solution of 2,4-dihydroxy-5-nitrobenzoyl chloride (17.0 g, 78.1 mmol) in dioxane (70 mL) is added to an ice cold solution of 50% aqueous hydroxylamine (35 mL) and water (35 mL). After the addition is complete, the ice bath is removed and the mixture is stirred at room temperature for 30 min. The resulting thick precipitate is filtered, washed once with 1:1 water/dioxane and dried to obtain 2,4,N-trihydroxy-5-nitrobenzamide. After standing in the refrigerator for 18 h, the 1:1 water/dioxane solution affords additional 2,4,N-trihydroxy-5-nitrobenzamide: (M+H)+=215.1.

reactant | 2,4-dihydroxy-5-nitrobenzoyl chloride | 78.1 mmol, 17.0 g | OC1=C(C(=O)Cl)C=C(C(=C1)O)[N+](=O)[O-] | C7H4ClNO5
reactant | hydroxylamine | 35 mL | NO | H3NO
reactant | water | 35 mL | O | H2O
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
product | 2,4,N-trihydroxy-5-nitrobenzamide | OC1=C(C(=O)NO)C=C(C(=C1)O)[N+](=O)[O-] | C7H6N2O6
